US07875728B2
Preparation of 3-({5-amino-4-[(3-fluorophenyl)hydrazono]-4H-pyrazol-3-ylmethyl}carbamoyl)acrylic acid
In a similar manner, N-{5-amino-4-[(3-fluorophenyl)hydrazono]-4H-pyrazol-3-ylmethyl}succinamic acid was prepared by reacting 5-aminomethyl-4-[(3-fluorophenyl)hydrazono]-4H-pyrazol-3-ylamine (60 mg, 0.25 mmole) with succinic anhydide (40 mg, 0.4 mmole). The reaction was worked up by the addition of aqueous ammonium chloride solution and ethyl acetate. The crude material was purified by preparative TLC (CH2Cl2:CH3OH:H2O:HOAc=210:21:1.6:0.8) to yield 45 mg (51%) of the title compound as a yellow powder. MS (m/z, ES−): 333 (M−1, 42%); 1H NMR (ppm, 300 MHz, DMSO-d6) δ 8.23 (br s, 1H), 7.35-7.63 (m, 3H), 6.83-7.20 (m, 3H), 4.42 (s, 2H), 2.33 (m, 4H).

reactant | N-{5-amino-4-[(3-fluorophenyl)hydrazono]-4H-pyrazol-3-ylmethyl}succinamic acid | NC=1C(C(=NN1)CNC(CCC(=O)O)=O)=NNC1=CC(=CC=C1)F | C14H15FN6O3
reactant | 5-aminomethyl-4-[(3-fluorophenyl)hydrazono]-4H-pyrazol-3-ylamine | 0.25 mmole, 60 mg | NCC=1C(C(=NN1)N)=NNC1=CC(=CC=C1)F | C10H11FN6
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-({5-amino-4-[(3-fluorophenyl)hydrazono]-4H-pyrazol-3-ylmethyl}carbamoyl)acrylic acid | 45 mg, 51% | NC=1C(C(=NN1)CNC(=O)C=CC(=O)O)=NNC1=CC(=CC=C1)F | C14H13FN6O3
